US08440652B2
Method C was applied to N-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)indoline-1-carboxamide (85 mg, 0.28 mmol) and 4-(5-amino-6-bromopyrazin-2-yl)-N-cyclopropyl-N-methylbenzenesulfonamide (100 mg, 0.26 mmol). The organic layer was decanted then triturated with Et2O to provide 5-(3-amino-6-(4-(N-cyclopropyl-N-methylsulfamoyl)phenyl)pyrazin-2-yl)-N-methylindoline-1-carboxamide as a yellow solid (35 mg, 28% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.58-8.66 (m, 1H), 8.20-8.31 (m, 1H), 7.92-7.99 (m, 1H), 7.79-7.88 (m, 2H), 7.47-7.64 (m, 2H), 6.61-6.71 (m, 1H), 6.60-6.65 (m, 1H), 6.58-6.71 (m, 2H), 6.42-6.49 (m, 2H), 3.88-3.98 (m, 2H), 3.13-3.25 (m, 2H), 2.68 (s, 3H), 2.08 (s, 3H), 1.79-1.88 (m, 1H), 0.62-0.81 (m, 4H); MS (EI) m/z=479.1[M+1]+.

reactant | N-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)indoline-1-carboxamide | 0.28 mmol, 85 mg | CNC(=O)N1CCC2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C | C16H23BN2O3
reactant | 4-(5-amino-6-bromopyrazin-2-yl)-N-cyclopropyl-N-methylbenzenesulfonamide | 0.26 mmol, 100 mg | NC=1N=CC(=NC1Br)C1=CC=C(C=C1)S(=O)(=O)N(C)C1CC1 | C14H15BrN4O2S
product | 5-(3-amino-6-(4-(N-cyclopropyl-N-methylsulfamoyl)phenyl)pyrazin-2-yl)-N-methylindoline-1-carboxamide | 35 mg, 28% yield | NC=1C(=NC(=CN1)C1=CC=C(C=C1)S(N(C)C1CC1)(=O)=O)C=1C=C2CCN(C2=CC1)C(=O)NC | C24H26N6O3S
